US05608056
To a solution of (2S,4R)-1-benzyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-[2-(1-methylimidazol-2-yl)vinyl]pyrrolidine (11.97 g) in methanol (80 ml) was added conc. hydrochloric acid (4.79 ml) at ambient temperature with stirring and the mixture was allowed to stand overnight at the same temperature. To the reaction mixture was added 28% sodium methoxide-methanol solution (11.4 ml) under ice-cooling with stirring and the resulting insoluble material was filtered off. The filtrate was evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (200 g) eluting with a mixture of chloroform and methanol (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-1-benzyloxycarbonyl-4-hydroxy-2-[2-(1-methylimidazol-2-yl)vinyl]pyrrolidine (5.47 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-[2-(1-methylimidazol-2-yl)vinyl]pyrrolidine | 11.97 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=CC=1N(C=CN1)C | C24H35N3O3Si
reactant | hydrochloric acid | 4.79 ml | Cl | ClH
reactant | sodium methoxide methanol | 11.4 ml | C[O-].[Na+].CO
solvent | methanol | 80 ml | CO | CH4O
product | (2S,4R)-1-benzyloxycarbonyl-4-hydroxy-2-[2-(1-methylimidazol-2-yl)vinyl]pyrrolidine | 5.47 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C=CC=1N(C=CN1)C | C18H21N3O3
